US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-ethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
Using 1-ethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (270 mg, 1.2 mmol), N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (260 mg, 0.79 mmol), HATU (450 mg, 1.2 mmol), diisopropylethylamine (300 mg, 2.4 mmol) and N,N-dimethylformamide (6 mL) as starting materials and in the same manner as in Example 35, the title compound (140 mg, 34%) was obtained as a white solid.

reactant | 1-ethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.2 mmol, 270 mg | C(C)N1N(C(C(=C1)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.79 mmol, 260 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | HATU | 1.2 mmol, 450 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.4 mmol, 300 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-ethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 140 mg, 34% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2)CC)C2=CC=CC=C2)=O)F)C1 | C29H25FN6O4
